US06797726B1
In 6 mL of N,N-dimethylformamide is dissolved 0.80 g of 5-[2-(3-chloropropyloxy)ethyl]benzo[b]-thiophene, to which is added 3.2 mL of diethylamine. The mixture is stirred in an ampoule at 100° C. for 10 hours. After cooling, the reaction mixture is introduced into a mixture of water and ethyl acetate, pH is adjusted to 1.0 with 6 mol/L hydrochloric acid, and the aqueous layer is separated. Ethyl acetate is added to the aqueous layer, pH is adjusted to 10.0 with 5 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=10:1 to 4:1). Thus, 0.48 g of N-[3-(2-benzo[b]thiophen-5-ylethoxy)propyl]-N,N-diethylamine is obtained as an oily product.

reactant | 5-[2-(3-chloropropyloxy)ethyl]benzo[b]-thiophene | 0.80 g | ClCCCOCCC1=CC2=C(SC=C2)C=C1 | C13H15ClOS
reactant | diethylamine | 3.2 mL | C(C)NCC | C4H11N
reactant | water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(2-benzo[b]thiophen-5-ylethoxy)propyl]-N,N-diethylamine | 0.48 g | S1C2=C(C=C1)C=C(C=C2)CCOCCCN(CC)CC | C17H25NOS
